US05457226
A mixture of 2.34 g (10 mmol) of p-iodoanisole, 2.57 g (10 mmol) of 2-ethylhexyl β-diethylamino-propionate, 0.9 g (15 mmol) of acetic acid and 15 mg of palladium on charcoal (5%) is stirred at 150° C. for 2 hours. Therafter, the mixture is worked up as in Example 1. 2-Ethylhexyl p-methoxycinnamate is obtained in 93% yield.

reactant | p-iodoanisole | 10 mmol, 2.34 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 2-ethylhexyl β-diethylamino-propionate | 10 mmol, 2.57 g | C(C)N(CCC(=O)OCC(CCCC)CC)CC | C15H31NO2
reactant | acetic acid | 15 mmol, 0.9 g | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | 2-Ethylhexyl p-methoxycinnamate | 93% yield | COC1=CC=C(C=CC(=O)OCC(CCCC)CC)C=C1 | C18H26O3
